* sg13g2-bandgap -- bandgap_core + bandgap_amp + bandgap_startup
* closed-loop deterministic input-referred-offset sensitivity testbench
* (issue #88, follow-on to #86/#58). Generated from
* sim/closed-loop-offset/testbench/tb_closed_loop_offset.spice.tmpl
* by sim/closed-loop-offset/run_offset_check.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the check. Full methodology rationale is in
* sim/closed-loop-offset/README.md.
*
* Generated for: point=wcs_vosneg corner=wcs
* temp=-40C vdd=2.97V vos=-0.005V
* DUT git sha (design/netlist/bandgap_core.spice,
* design/netlist/bandgap_amp.spice and design/netlist/bandgap_startup.spice
* this was copied from):
*   core=4832c71 amp=397fe2d startup=66ac99d seeds=20260825-145208-403a24f.csv@397fe2d
* PDK: ihp-sg13g2 /tmp/pdk-root/ihp-open-pdk (see sim/pdk.json for the pinned release)
* OSDI models: /tmp/pdk-root/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh)
*
* --------------------------------------------------------- offset probe
* This is NOT a Monte Carlo / statistical mismatch claim (out of scope --
* see README and design/README.md's issue #58 section). It is a
* deterministic input-referred-offset PROBE: a DC voltage source Vos is
* inserted in series between the shared "sns1" node (bandgap_core's own
* output) and a new node "sns1_amp" that ONLY design/bandgap_amp.spice's
* XMP2 gate (in_n, the inverting input -- see design/bandgap_amp.sch's own
* header "polarity" derivation) is tied to, everywhere else this
* co-simulation is identical to sim/closed-loop-vref-pvt/'s own topology
* (single shared fb node, loop not broken). This is the standard way to
* model an amplifier's own input-referred offset voltage: in series with
* one input. Sweeping Vos to +VOS and -VOS and comparing the resulting
* vref against the Vos=0 baseline measures this design's own vref
* SENSITIVITY to an amplifier input offset (dVref/dVos) -- useful
* regardless of what this amplifier's OWN real offset happens to be
* (unknown without Monte Carlo mismatch data this repo does not have).
*
* ------------------------------------------------------- DC bias: nodeset
* Same .nodeset-seeding technique sim/loop-gain-phase-margin/ and
* sim/closed-loop-psrr/ both use, and for the same reason (this circuit
* has more than one DC equilibrium, and a bare .op has no guaranteed way
* to land in the intended one) -- seeded from sim/closed-loop-startup's
* own committed per-corner converged transient endpoint for the REAL
* (Vos=0) circuit. This is only a Newton-Raphson initial-guess HINT, not
* an enforced constraint, so it remains a useful head start even though
* the actual Vos!=0 runs are expected to converge to a DIFFERENT
* equilibrium than the seed (that shift IS the effect under test) --
* unlike sim/closed-loop-psrr/, this testbench does NOT gate pass/fail on
* "op landed near its seed" for that reason (see README "Pass/fail
* criteria" -- the check here is that the loop is still genuinely closed
* around its OWN new equilibrium, not that it reproduces the Vos=0 one).
.nodeset v(fb)=2.08649e+00 v(sns1)=7.89226e-01 v(sns1_amp)=7.89226e-01 v(sns2)=7.89070e-01 v(vref)=1.14161e+00

.lib "/tmp/pdk-root/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_wcs
.lib "/tmp/pdk-root/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_ss
.lib "/tmp/pdk-root/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib" res_wcs

.options temp=-40 tnom=27

* FIXTURE -- vdd is a fixed DC source (no ramp, no AC): this testbench
* measures a DC operating-point shift under a deterministic offset probe,
* not a startup transient or a small-signal frequency response.
Vvdd vdd 0 dc 2.97
Vvss vss 0 dc 0
Vsub sub! vss dc 0

* DUT -- design/netlist/bandgap_core.spice, verbatim (loop NOT broken).
XM1 sns1 fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XQ1 sns1 sns1 vss vss npn13G2 Nx=1
XM2 sns2 fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XR2 sns2 cb2 sub! rppd w=2u l=82.7u m=1 b=0
XQ2 cb2 cb2 vss vss npn13G2 Nx=8
XM3 vref fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XR1 vref cb3 sub! rppd w=2u l=694.5u m=1 b=0
XQ3 cb3 cb3 vss vss npn13G2 Nx=1

* DUT -- design/netlist/bandgap_amp.spice, verbatim, EXCEPT XMP2's gate
* (in_n, the inverting input) is tied to "sns1_amp" instead of "sns1" --
* see "offset probe" above. in_p <- sns2 (non-inverting) is untouched.
XMTAIL tail fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XMP1 d1 sns2 tail vdd sg13_hv_pmos w=20u l=1u ng=1 m=1
XMP2 d2 sns1_amp tail vdd sg13_hv_pmos w=20u l=1u ng=1 m=1
XMP3 pn pn vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XMP4 fb pn vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XMN1 d1 d1 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1
XMN2 d2 d2 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1
XMN3 fb d1 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1
XMN4 pn d2 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1

* FIXTURE -- the offset probe itself: a DC source in series between the
* real sns1 node and the amp-only sns1_amp node. A 0V Vos (the baseline
* point) reduces this to a plain wire, reproducing
* sim/closed-loop-vref-pvt/'s own unmodified topology exactly.
Vos sns1_amp sns1 dc -0.005

* DUT -- design/netlist/bandgap_startup.spice, verbatim. `sns1` and `fb`
* are shared with the core and amp DUTs above -- the nodes the assembled
* block actually connects. Note: XMSENSE's gate is tied to the REAL sns1
* (not sns1_amp) -- the startup circuit is not part of the "amplifier"
* the offset probe models, so it is left on the unperturbed node, same as
* design/bandgap_top.sch's own wiring intends (XMSENSE senses the core's
* actual sns1, not an amplifier-internal offset-shifted copy of it).
*
* FIXTURE -- Vmkfb is a 0V ammeter in series with XMKFB's drain (same
* fixture every closed-loop experiment in this tree uses). A 0V source is
* a DC short and does not move the operating point.
XRPU vdd det sub! rhigh w=1u l=1411.3u m=1 b=0
XMSENSE det sns1 vss vss sg13_hv_nmos w=10u l=0.5u ng=1 m=1
Vmkfb fb fbx dc 0
XMKFB fbx det vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1

.control
pre_osdi /tmp/pdk-root/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /tmp/pdk-root/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /tmp/pdk-root/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /tmp/pdk-root/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/r3_cmc.osdi
op
* Parsed by run_offset_check.sh from these exact "v(node) = value" lines
* (ngspice has no ".meas op" analysis type -- "print" is this tree's
* standard way to pull a DC operating-point value out of a .control
* block).
print v(fb)
print v(sns1)
print v(sns1_amp)
print v(sns2)
print v(vref)
.endc
.end
